US07737145B2
A solution of methyl 4-[[(R)-2-[[[[4-(4-bromophenoxy)phenyl]methyl]methylamino]methyl]-1-pyrrolidinyl]methyl]benzoate in a mixture of THF and methanol and treated with an aqueous solution of lithium hydroxide (400 mg). The reaction was stirred for 3 days. After acidification with 1 N hydrochloric acid, purification by reverse phase preparative HPLC using a gradient of acetonitrile in water containing 0.1% TFA give 270 mg of 4-[[(R)-2-[[[[4-(4-bromophenoxy)phenyl]methyl]methylamino]methyl]-1-pyrrolidinyl]methyl]benzoic acid; 1NMR (400 MHz, DMSO-d6) δ 7.98 (d, 2H), 7.61 (d, 2H), 7.54 (d, 2H), 7.40 (d, 2H), 7.07 (d, 2H), 6.96 (d, 2H), 4.46 (m, 1H), 4.17 (dbr, 1H), 3.18 (m, 4H), 3.02 (m, 2H), 2.37 (sbr, 3H), 2.25 (m, 1H), 1.82 (m, 4H), 1.21 (m, 2H) ppm.

reactant | methyl 4-[[(R)-2-[[[[4-(4-bromophenoxy)phenyl]methyl]methylamino]methyl]-1-pyrrolidinyl]methyl]benzoate | BrC1=CC=C(OC2=CC=C(C=C2)CN(C)C[C@@H]2N(CCC2)CC2=CC=C(C(=O)OC)C=C2)C=C1 | C28H31BrN2O3
reactant | lithium hydroxide | 400 mg | [OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | 4-[[(R)-2-[[[[4-(4-bromophenoxy)phenyl]methyl]methylamino]methyl]-1-pyrrolidinyl]methyl]benzoic acid | 270 mg | BrC1=CC=C(OC2=CC=C(C=C2)CN(C)C[C@@H]2N(CCC2)CC2=CC=C(C(=O)O)C=C2)C=C1 | C27H29BrN2O3
